US07094800B2
1l) methyl (3S,7aS)-6-benzyloxycarbonylamino-5-oxohexahydropyrrolizine-3-carboxylate
1500 mg of 1-tert-butyl 2-methyl (2S,5S)-5-(2-benzyloxycarbonylamino-2-methoxycarbonylethyl)pyrrolidine-1,2-dicarboxylate were mixed with 0.2 ml of thioanisole. Then 10 ml of trifluoroacetic acid were added, and the mixture was stirred for 45 min. The solvents were then removed in vacuo, and the residue was taken up in 10 ml of pyridine. 1.1 ml of diisopropylethylamine were added, and the mixture was heated at 95° C. for 3 h. The solvents were removed in vacuo, and the residue was chromatographed on silica gel.

reactant | 1-tert-butyl 2-methyl (2S,5S)-5-(2-benzyloxycarbonylamino-2-methoxycarbonylethyl)pyrrolidine-1,2-dicarboxylate | 1500 mg | C(C1=CC=CC=C1)OC(=O)NC(C[C@@H]1CC[C@H](N1C(=O)OC(C)(C)C)C(=O)OC)C(=O)OC | C23H32N2O8
reactant | thioanisole | 0.2 ml | C1(=CC=CC=C1)SC | C7H8S
solvent | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
product | methyl (3S,7aS)-6-benzyloxycarbonylamino-5-oxohexahydropyrrolizine-3-carboxylate | C(C1=CC=CC=C1)OC(=O)NC1C(N2[C@@H](CC[C@H]2C1)C(=O)OC)=O | C17H20N2O5
